US04902700
Synthesis of 2-[trans-3-(3-carboxy-3,3-dimethylpropyloxy)styryl]-4-isopropylthiazole (compound No. 430)
To a solution of 200 mg of 2-[trans-3-(3,3-dimethyl-3-ethoxycarbonylpropyloxy)styryl]-4-isopropylthiazole dissolved in 5 ml of ethanol were added 2 ml of 10% aqueous potassium hydroxide solution and three drops of 40% benzyltrimethylammonium hydroxide methanol solution, and the mixture was refluxed for 1 hour to effect hydrolysis of the ester. After completion of the reaction, ethanol was evaporated under reduced pressure and the residue was adjusted to pH 1-2 with addition of 10% hydrochloric acid and then extracted with ethyl ether. After drying of anhydrous magnesium sulfate, the solvent was evaporated and the solid formed was recrystallized from methanol to give 123 mg (yield 66%) of the title compound.

reactant | 2-[trans-3-(3,3-dimethyl-3-ethoxycarbonylpropyloxy)styryl]-4-isopropylthiazole | 200 mg | CC(CCOC=1C=C(/C=C/C=2SC=C(N2)C(C)C)C=CC1)(C(=O)OCC)C | C22H29NO3S
reactant | potassium hydroxide | 2 ml | [OH-].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | benzyltrimethylammonium hydroxide methanol | three drops | CO.[OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 2-[trans-3-(3-carboxy-3,3-dimethylpropyloxy)styryl]-4-isopropylthiazole | 123 mg, yield 66% | C(=O)(O)C(CCOC=1C=C(/C=C/C=2SC=C(N2)C(C)C)C=CC1)(C)C | C20H25NO3S
